US07863271B2
To a solution of methyl 2-((2S,6S)-2,6-dimethyl-4-(dimethylcarbamoyl)piperazin-1-yl)benzoxazole-4-carboxylate (265 mg, 0.74 mmol) in pyridine (5 mL) was added LiI (984 mg, 7.35 mmol). The mixture was heated at 110° C. for 14 h and allowed to cool to ambient temperature. The reaction was partially concentrated under reduced pressure before partitioning with 9:1 CH2Cl2/2-propanol (50 mL) and 1 N HCl (20 mL). The organic layer was washed with brine, dried (Na2SO4) and concentrated under reduced pressure to afford crude 2-((2S,6S)-2,6-dimethyl-4-(dimethylcarbamoyl)piperazin-1-yl)benzoxazole-4-carboxylic acid as an orange oil which was directly elaborated without purification.

reactant | methyl 2-((2S,6S)-2,6-dimethyl-4-(dimethylcarbamoyl)piperazin-1-yl)benzoxazole-4-carboxylate | 0.74 mmol, 265 mg | C[C@@H]1N([C@H](CN(C1)C(N(C)C)=O)C)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C18H24N4O4
reactant | LiI | 7.35 mmol, 984 mg | [Li+].[I-]
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-((2S,6S)-2,6-dimethyl-4-(dimethylcarbamoyl)piperazin-1-yl)benzoxazole-4-carboxylic acid | C[C@@H]1N([C@H](CN(C1)C(N(C)C)=O)C)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C17H22N4O4
